US20010056188A1
2) 3-[N-(3,5-Bis(trifluoromethyl)phenyl)-N-methylamino]-2-(4-chlorophenylsulfonyl)-3-(1,2,2-trimethylpropylamino)-2-propenenitrile
To a solution of 3-[N-(3,5-Bis(trifluoromethyl)phenyl)-N-methylamino]-2-(4-chlorophenylsulfonyl)-3-methylsulfanyl-2-propenenitrile (0.300 g, 0.58 mmol) in dry acetonitrile (2 ml) was added 1,2,2-trimethylpropylamine (0.12 g) and dry triethylamine (89 μl). The mixture was stirred for 68 h at 80° C. under nitrogen. The reaction mixture was concentrated. Purification by flash chromatography using ethyl acetate/heptane 1:4 and 1:3 as eluent gave a syrup (142 mg) which was crystallised in ethanol/water to give 110 mg (33%) of the title compound. Mp 151.5-154° C. 1H NMR (300 MHz, CDCl3): δ=0.9 (s, 9H), 1.10 (d, 3H), 3.10 (m, 1H), 3.30 (s, 3H), 7.10 (s, 2H), 7.46 (s, 1H), 7.55 (d, 2H), 7.85 (d, 2H), 8.1 (brd, 1H); MA calc for C24H24CIF6N3O2S: C50.75%, H 4.26%, N 7.40%, Cl 6.24%. Found: C50.79%, H 4.28%, N 7.24%, Cl 6.19%.

reactant | 3-[N-(3,5-Bis(trifluoromethyl)phenyl)-N-methylamino]-2-(4-chlorophenylsulfonyl)-3-methylsulfanyl-2-propenenitrile | 0.58 mmol, 0.300 g | FC(C=1C=C(C=C(C1)C(F)(F)F)N(C)C(=C(C#N)S(=O)(=O)C1=CC=C(C=C1)Cl)SC)(F)F | C19H13ClF6N2O2S2
reactant | 1,2,2-trimethylpropylamine | 0.12 g | CC(C(C)(C)C)N | C6H15N
reactant | triethylamine | 89 μl | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 3-[N-(3,5-Bis(trifluoromethyl)phenyl)-N-methylamino]-2-(4-chlorophenylsulfonyl)-3-(1,2,2-trimethylpropylamino)-2-propenenitrile | 142 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)N(C)C(=C(C#N)S(=O)(=O)C1=CC=C(C=C1)Cl)NC(C(C)(C)C)C)(F)F | C24H24ClF6N3O2S
